US06391520B1
1 mmol of 1-carboxy-3,5,7-adamantanetriol and 2.5 mmol of 2-hydroxyethyl acrylate were reacted in toluene to give 1-acryloyloxyethoxycarbonyl-3,5,7-adamantanetriol. To 30 ml of tetrahydrofuran were added 5 mmol of 1-acryloyloxyethoxycarbonyl-3,5,7-adamantanetriol, 25 mmol of acetoaldehyde, and 1 mmol of p-toluenesulfonic acid, and the mixture was acetalized in the same manner as in Example 1 to give the object compound 1-acryloyloxyethoxycarbonyl-3,5,7-tri(1-hydroxyethoxy)adamantane (actalilzed compound) shown by the following formula.

reactant | 1-carboxy-3,5,7-adamantanetriol | 1 mmol | C(=O)(O)C12CC3(CC(CC(C1)(C3)O)(C2)O)O | C11H16O5
reactant | 2-hydroxyethyl acrylate | 2.5 mmol | C(C=C)(=O)OCCO | C5H8O3
solvent | toluene | C1(=CC=CC=C1)C | C7H8
product | 1-acryloyloxyethoxycarbonyl-3,5,7-adamantanetriol | C(C=C)(=O)OC(C)OC(=O)C12CC3(CC(CC(C1)(C3)O)(C2)O)O | C16H22O7
